US03933917
81 parts of 5-tert.-butyl-m-xylene and 70 parts of benzoyl chloride are kept with 2.4 parts of ferric chloride for three hours at from 100° to 120°C. The whole is cooled to 25°C and 600 parts of benzene and 100 parts of aluminum chloride are added. 20 parts of hydrogen chloride is passed into the mixture during six hours at 70° to 80°C. The mixture is poured onto 1000 parts of ice-water. The organic phase which forms is separated and 77 parts (73.3% of theory) of 2,6-dimethylbenzophenone having a boiling point of 122° to 125°C is isolated by distillation at 0.3 mm Hg.

reactant | 5-tert.-butyl-m-xylene | C(C)(C)(C)C=1C=C(C=C(C1)C)C | C12H18
reactant | benzoyl chloride | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | aluminum chloride | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | hydrogen chloride | Cl | ClH
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 2,6-dimethylbenzophenone | 73.3% | CC1=C(C(=O)C2=CC=CC=C2)C(=CC=C1)C | C15H14O
